2200-11-22 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   MAPS briefly in the 40s/50s that has been fluid responsive. Has
   received a total of 3 liters NS in past 3 hours.
   Will likely go to ERCP around 8:30 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2200-11-22**] 04:14 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-11-22**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98.1
   HR: 87 (82 - 88) bpm
   BP: 96/71(76) {76/28(40) - 106/71(110)} mmHg
   RR: 25 (22 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
             5,850 mL
   PO:
             TF:
   IVF:
   3,150 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                     75 mL
   Urine:
   75 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  5,775 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///18/
   Physical Examination
   GENERAL: Pleasant gentleman in NAD
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. EOMI. MMM. OP clear. Neck Supple
   CARDIAC: S1S2 RRR, I/VI SEM at RUSB
   LUNGS: Bibasilar crackles.
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout. 5/5 strength throughout. [**1-31**]+ reflexes, equal BL. Normal
   coordination. Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   135 K/uL
   11.9 g/dL
   82 mg/dL
   1.4 mg/dL
   18 mEq/L
   3.4 mEq/L
   27 mg/dL
   107 mEq/L
   139 mEq/L
   35.7 %
   24.6 K/uL
        [image002.jpg]
                            [**2200-11-22**]  04:54 AM
   WBC
   24.6
   Hct
   35.7
   Plt
   135
   Cr
   1.4
   Glucose
   82
   Other labs: PT / PTT / INR:18.4/26.8/1.7, ALT / AST:124/74, Alk Phos /
   T Bili:137/4.0, LDH:235 IU/L, Mg++:1.6 mg/dL
   Assessment and Plan
   84 y/o gentleman with h/o CVA, CAD, HTN, HL is admitted with
   choledolcholithiasis/cholecystitis s/p ERCP stent placemnt currently
   septic, intubated and with acute cholecystitis awaiting percutaneous
   cholecystostomy.
   .
   # Sepsis: Secondary to cholangitis s/p ercp.  Plan is for percutaneous
   cholycystostomy tube for decompression of gallbladder. Briefly on neo
   post/op but weaned off with good MAPs.
   - A- line to monitor for MAPs > 65 levophed/vasopressin if needed
   - Central line placement today
   - Monitor CVP; IVFs to maintain CVP > [**11-10**], and give
   - Continue IV zosyn and empiric coverage with vancomycin for concern of
   possible PNA as has had increased secretions
   - Plan for IR bedside cholecystostomy to decompress inflamed
   gallbladder
   - appreciate surgery/ERCP recs
   - FFP prn for any procedures
   - follow up cultures
   .
   # S/P intubation: patient can likely be weaned from vent once patient
   is acutely stabilized hemodynamically.
   - Attempt to wean from vent later today
   - Send sputum cultures as patient has increased secretions
   .
   # ARF: Unclear baseline. Likely pre-renal in setting of hypotension as
   has decreased uop and increasing BUN/Cr
   - IVF
s prn
   - Consider urine lytes
   - renally dose medications
   - monitor uop
   .
   # Cholecystitis/cholangitis: s/p stent placement with large amounts of
   pus from common bile duct. Concern for significant infection in this
   setting. Also concern for a concurrent acute cholecystitis.
   - continue zosyn
   - IR placement of cholecystomy drain today to decompress gall bladder
   - Appreciate ERCP/Surgery recs
   .
   # h/o CVA/CAD/PVD:
   - will discuss with surgical team regarding ASA
   - obtain baseline ECG
   .
   # HL: continue simvastatin
   .
   # Hypertension:
   - hold home meds in the setting of transient hypotension in ED
   - BB
   .
   # ? COPD:
   - continue home inhalers
   .
   # BPH:
   - restart home regimen
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:
   Lines:
   20 Gauge - [**2200-11-22**] 01:00 AM
   18 Gauge - [**2200-11-22**] 01:00 AM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer:  PPI; omeprazole
   VAP:
   Comments:
   Communication:  Comments: Daughter, [**Name (NI) **] [**Telephone/Fax (1) 10974**], [**Telephone/Fax (1) 10975**]
   Code status:  Full code for procedure
   Disposition: Icu for now ; will d/w surgery whether the VA would like
   the patient back.

2200-11-23 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ERCP - At [**2200-11-22**] 08:00 AM
 SPUTUM CULTURE - At [**2200-11-22**] 12:30 PM
 EKG - At [**2200-11-22**] 06:00 PM
 ARTERIAL LINE - START [**2200-11-22**] 07:00 PM
   - patient intubated post ERCP-had frank pus in bile duct, s/p
   sphincterotomy, watching coags due to risk of bleeding
   - has A-line and 2PIV's, BP has been much better with decreased amounts
   of sedation
   - LOS up over 8L, watching UOP to help with fluid status
   - s/p percutaneous cholecystomy tube placement by IR, drained about
   100cc's of brown fluid-->sent for culture
   - vent weaned to PSV easily, extubated early this morning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2200-11-22**] 04:14 AM
   Vancomycin - [**2200-11-22**] 12:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2200-11-23**] 12:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2200-11-22**] 09:20 PM
   Heparin Sodium (Prophylaxis) - [**2200-11-23**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-11-23**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (96.9
   HR: 64 (40 - 89) bpm
   BP: 129/59(83) {89/48(62) - 149/73(97)} mmHg
   RR: 18 (14 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
          Total In:
                                                                  9,162 mL
                                                                    768 mL
   PO:
          TF:
   IVF:
                                                                  5,962 mL
                                                                    622 mL
   Blood products:
                                                                    500 mL
                                                                    145 mL
   Total out:
                                                                  1,564 mL
                                                                  1,905 mL
   Urine:
                                                                  1,354 mL
                                                                  1,785 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
                                                                    110 mL
                                                                    120 mL
   Balance:
                                                                  7,598 mL
                                                                 -1,137 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 520 (480 - 520) mL
   Vt (Spontaneous): 523 (523 - 523) mL
   PS : 10 cmH2O
   RR (Set): 15
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 72
   PIP: 30 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: 7.33/41/107/21/-4
   Ve: 8.9 L/min
   PaO2 / FiO2: 268
   Physical Examination
   GENERAL: Pleasant gentleman in NAD
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. EOMI. MMM. OP clear. Neck Supple
   CARDIAC: S1S2 RRR, I/VI SEM at RUSB
   LUNGS: Bibasilar crackles.
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, [**1-31**]+ dorsalis pedis pulses.
   SKIN: multiple ecchymoses from attempts at a-line placement
   NEURO: A&Ox3. Appropriate.
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   132 K/uL
   12.0 g/dL
   83 mg/dL
   1.1 mg/dL
   21 mEq/L
   3.1 mEq/L
   25 mg/dL
   106 mEq/L
   138 mEq/L
   34.9 %
   12.7 K/uL
        [image002.jpg]
                            [**2200-11-22**]  04:54 AM
                            [**2200-11-22**]  10:28 AM
                            [**2200-11-22**]  12:08 PM
                            [**2200-11-22**]  01:39 PM
                            [**2200-11-22**]  04:32 PM
                            [**2200-11-22**]  06:03 PM
                            [**2200-11-22**]  06:22 PM
                            [**2200-11-23**]  01:01 AM
                            [**2200-11-23**]  05:44 AM
   WBC
   24.6
   20.5
   12.7
   Hct
   35.7
   31.7
   34.9
   Plt
   135
   100
   132
   Cr
   1.4
   1.2
   1.1
   1.1
   TCO2
   20
   17
   16
   20
   23
   Glucose
   82
   91
   94
   83
   Other labs: PT / PTT / INR:17.2/29.3/1.5, ALT / AST:88/53, Alk Phos / T
   Bili:102/2.4, Amylase / Lipase:39/26, Lactic Acid:1.2 mmol/L,
   Albumin:3.1 g/dL, LDH:162 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.4
   mg/dL
   Microbiology:
[**2200-11-21**] 7:30 pm BLOOD CULTURE
   Blood Culture, Routine (Preliminary):
      ENTEROCOCCUS SP..    PRELIMINARY SENSITIVITY.
         These preliminary susceptibility results are offered to help guide
         treatment; interpret with caution as final susceptibilities may
         change. Check for final susceptibility results in 24 hours.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             ENTEROCOCCUS SP.
                             |
AMPICILLIN------------       S
VANCOMYCIN------------       S
   Aerobic Bottle Gram Stain (Final [**2200-11-22**]):
      REPORTED BY PHONE TO [**Doctor First Name **] [**Doctor Last Name **] @ 1800 ON [**11-22**] - [**Numeric Identifier 10994**].
      GRAM POSITIVE COCCI.
      IN PAIRS AND CHAINS.
   Anaerobic Bottle Gram Stain (Final [**2200-11-22**]):
      GRAM POSITIVE COCCI.
         IN PAIRS AND CHAINS.
   Assessment and Plan
   84 y/o gentleman with h/o CVA, CAD, HTN, HL is admitted with
   choledolcholithiasis/cholecystitis s/p ERCP stent placemnt currently
   septic, intubated and with acute cholecystitis awaiting percutaneous
   cholecystostomy.
   .
   # Sepsis: Secondary to cholangitis s/p ercp and percutaneous
   cholycystostomy tube placement for decompression of gallbladder.
   - Briefly on neo post/op but weaned off with good MAPs since that time,
   patient has been aggressively fluid resuscitated since arrival,
   received over 8L of IVF since admission on the evening of [**11-21**]
   - A- line in place, has not needed pressors since post ERCP on [**11-22**]
   - Deferred central line placement since patient has not needed
   pressors, MAPs were generally between 70-80
   - Continue IV zosyn and empiric coverage with vancomycin for concern of
   possible PNA as has had increased secretions, f/u cx
s may be able to
   narrow antibiotic coverage to ampicillin with further speciation from
   perc tube, will need a prolonged course with PICC placement, which
   cannot be placed until blood cx
s are negative for over 24 hours
   - repeat blood cultures today
   - f/u cultures from percutaneous cholecystomy placement
   - appreciate surgery/ERCP recs
   - FFP prn for any procedures
   - follow up culture speciation
   .
   # S/P intubation: patient was weaned overnight and changed to PSV,
   ventilation/oxygenation improved post lasix administration which he
   received due to decreased UOP, JVP to the mandible and pulmonary edema
   on CXR
UOP responded briskly, patient
s oxygenation improved
   significantly and his BP improved, making it likely that he was
   overloaded and on the downward slope of his Starling curve
   - patient
s sedation was weaned and he was successfully extubated this
   morning
   .
   # ARF: Unclear baseline, but Cr has decreased from 1.4 on admission to
   1.1 today. Likely pre-renal in setting of hypotension as has decreased
   uop and increasing BUN/Cr
   - received over 8L of IVF, looked volume overloaded so gave 40mg of
   lasix he responded with brisk urine output which led to improvement in
   his oxygenation and his urine output remained elevated, gave 500 cc
   back for dramatic UOP
   - renally dose medications
   - monitor uop
   .
   # Cholecystitis/cholangitis: s/p stent placement with large amounts of
   pus from common bile duct. Concern for significant infection in this
   setting. Also concern for a concurrent acute cholecystitis given
   findings of increased gall bladder wall thickness and pericholecysitc
   fluid.  Patient is s/p percutaneous cholecystomy tube placement by IR
   yesterday afternoon, which has been draining brown fluid since that
   time.
   - continue zosyn pending further culture data from cholecystomy tube
   - Appreciate ERCP/Surgery recs
   .
   # h/o CVA/CAD/PVD:
   - will discuss with surgical team regarding ASA, currently on hold due
   to procedures
   - try to get prior records from the VA about baseline cardiac function
   .
   # HL: restart simvastatin when taking po meds
   .
   # Hypertension: continuing to hold home anti-hypertensives for now, for
   the past 18 hours patient has been normotensive, will continue to
   monitor and add back if necessary
   - patient bradycardic with BB and sedation, will hold BB.  Bradycardia
   has been improving with weaning sedation.
   .
   # ? COPD:
   - continue home inhalers
   .
   # BPH:
   - restart home regimen now when he can take po meds
   ICU Care
   Nutrition: NPO for now, pending surgery/ERCP recs and how well he does
   post extubation
   Glycemic Control:
   Lines:
   18 Gauge - [**2200-11-22**] 01:00 AM
   20 Gauge - [**2200-11-22**] 02:00 PM
   Arterial Line - [**2200-11-22**] 07:00 PM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Daughter, [**Name (NI) **] [**Telephone/Fax (1) 10974**], [**Telephone/Fax (1) 10975**]
   Code status: Full Code for procedure, will clarify with family
   Disposition: ICU for now, will discuss with surgery whether or not he
   needs to be transferred back to the VA

2200-11-24 06:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2200-11-23**] 05:15 PM
   [**11-23**]:
   - gm+ cocci in pairs and chains in blood--> likely enterococcus;
   continue on Vanc, can leave zosyn for one more day until we see what
   grows out of bile cultures and sensitivities
   - gm+ cocci in biliary fluid; brownish thin fluid (had lots of pus come
   out from ERCP)
   - correlate cuff pressures w A-line pressures, then DC A-line
   - f/u w Surgery and [**Location 408**] VA about transfer
   - diet advances per [**Doctor First Name 213**] team ( still NPO for now )
   - ERCP --> remove stent and get stone out w repeat ERCP in 6wks
   - repeat blood cultures today
   - wean O2 NC
   - renally dose meds b/c Cr decreased from 1.4 to 1.1 today
   - ask ERCP about restarting aspirin?
   - consider restarting some of his BP meds today
   - confirm whether code status is really DNR?
   - callout later in the afternoon
   - restart aspirin in 5 days--> [**11-28**] (per ERCP)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2200-11-22**] 04:14 AM
   Vancomycin - [**2200-11-23**] 07:33 AM
   Piperacillin/Tazobactam (Zosyn) - [**2200-11-24**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2200-11-24**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-11-24**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.5
   HR: 62 (55 - 86) bpm
   BP: 152/65(86) {126/47(68) - 168/105(108)} mmHg
   RR: 21 (14 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  2,158 mL
                                                                    159 mL
   PO:
             TF:
   IVF:
                                                                  1,772 mL
                                                                    159 mL
   Blood products:
                                                                    386 mL
   Total out:
                                                                  3,235 mL
                                                                    760 mL
   Urine:
                                                                  2,820 mL
                                                                    690 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
                                                                    315 mL
                                                                     70 mL
   Balance:
                                                                 -1,077 mL
                                                                   -601 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///18/
   Physical Examination
   GENERAL: Pleasant gentleman in NAD
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. EOMI. MMM. OP clear. Neck Supple
   CARDIAC: S1S2 RRR, I/VI SEM at RUSB
   LUNGS: Bibasilar crackles.
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, [**1-31**]+ dorsalis pedis pulses.
   SKIN: multiple ecchymoses from attempts at a-line placement
   NEURO: A&Ox3. Appropriate.
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   140 K/uL
   13.1 g/dL
   71 mg/dL
   1.0 mg/dL
   18 mEq/L
   3.3 mEq/L
   21 mg/dL
   105 mEq/L
   138 mEq/L
   38.4 %
   8.4 K/uL
        [image002.jpg]
                            [**2200-11-22**]  10:28 AM
                            [**2200-11-22**]  12:08 PM
                            [**2200-11-22**]  01:39 PM
                            [**2200-11-22**]  04:32 PM
                            [**2200-11-22**]  06:03 PM
                            [**2200-11-22**]  06:22 PM
                            [**2200-11-23**]  01:01 AM
                            [**2200-11-23**]  05:44 AM
                            [**2200-11-23**]  02:52 PM
                            [**2200-11-24**]  04:45 AM
   WBC
   20.5
   12.7
   8.4
   Hct
   31.7
   34.9
   38.4
   Plt
   100
   132
   140
   Cr
   1.2
   1.1
   1.1
   1.1
   1.0
   TCO2
   20
   17
   16
   20
   23
   Glucose
   91
   94
   83
   76
   71
   Other labs: PT / PTT / INR:12.9/25.5/1.1, ALT / AST:72/28, Alk Phos / T
   Bili:94/1.9, Amylase / Lipase:39/26, Lactic Acid:1.2 mmol/L,
   Albumin:3.1 g/dL, LDH:169 IU/L, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
 Assessment and Plan
   84 y/o gentleman with h/o CVA, CAD, HTN, HL is admitted with
   choledolcholithiasis/cholecystitis s/p ERCP stent placemnt currently
   septic, intubated and with acute cholecystitis awaiting percutaneous
   cholecystostomy.
   .
   # Sepsis: Secondary to cholangitis s/p ercp and percutaneous
   cholycystostomy tube placement for decompression of gallbladder.
   - Briefly on neo post/op but weaned off with good MAPs since that time,
   patient has been aggressively fluid resuscitated since arrival,
   received over 8L of IVF since admission on the evening of [**11-21**]
   - A- line in place, has not needed pressors since post ERCP on [**11-22**]
   - Deferred central line placement since patient has not needed
   pressors, MAPs were generally between 70-80
   - Continue IV zosyn and empiric coverage with vancomycin for concern of
   possible PNA as has had increased secretions, f/u cx
s may be able to
   narrow antibiotic coverage to ampicillin with further speciation from
   perc tube, will need a prolonged course with PICC placement, which
   cannot be placed until blood cx
s are negative for over 24 hours
   - repeat blood cultures today
   - f/u cultures from percutaneous cholecystomy placement
   - appreciate surgery/ERCP recs
   - FFP prn for any procedures
   - follow up culture speciation
   .
   # S/P intubation: patient was weaned overnight and changed to PSV,
   ventilation/oxygenation improved post lasix administration which he
   received due to decreased UOP, JVP to the mandible and pulmonary edema
   on CXR
UOP responded briskly, patient
s oxygenation improved
   significantly and his BP improved, making it likely that he was
   overloaded and on the downward slope of his Starling curve
   - patient
s sedation was weaned and he was successfully extubated this
   morning
   .
   # ARF: Unclear baseline, but Cr has decreased from 1.4 on admission to
   1.1 today. Likely pre-renal in setting of hypotension as has decreased
   uop and increasing BUN/Cr
   - received over 8L of IVF, looked volume overloaded so gave 40mg of
   lasix he responded with brisk urine output which led to improvement in
   his oxygenation and his urine output remained elevated, gave 500 cc
   back for dramatic UOP
   - renally dose medications
   - monitor uop
   .
   # Cholecystitis/cholangitis: s/p stent placement with large amounts of
   pus from common bile duct. Concern for significant infection in this
   setting. Also concern for a concurrent acute cholecystitis given
   findings of increased gall bladder wall thickness and pericholecysitc
   fluid.  Patient is s/p percutaneous cholecystomy tube placement by IR
   yesterday afternoon, which has been draining brown fluid since that
   time.
   - continue zosyn pending further culture data from cholecystomy tube
   - Appreciate ERCP/Surgery recs
   .
   # h/o CVA/CAD/PVD:
   - will discuss with surgical team regarding ASA, currently on hold due
   to procedures
   - try to get prior records from the VA about baseline cardiac function
   .
   # HL: restart simvastatin when taking po meds
   .
   # Hypertension: continuing to hold home anti-hypertensives for now, for
   the past 18 hours patient has been normotensive, will continue to
   monitor and add back if necessary
   - patient bradycardic with BB and sedation, will hold BB.  Bradycardia
   has been improving with weaning sedation.
   .
   # ? COPD:
   - continue home inhalers
   .
   # BPH:
   - restart home regimen now when he can take po meds
   Nutrition: NPO for now, pending surgery/ERCP recs and how well he does
   post extubation
   Glycemic Control:
   Lines:
   18 Gauge - [**2200-11-22**] 01:00 AM
   20 Gauge - [**2200-11-22**] 02:00 PM
   Arterial Line - [**2200-11-22**] 07:00 PM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Daughter, [**Name (NI) **] [**Telephone/Fax (1) 10974**], [**Telephone/Fax (1) 10975**]
   Code status: Full Code for procedure, will clarify with family
   Disposition: ICU for now, will discuss with surgery whether or not he
   needs to be transferred back to the VA

2200-11-24 12:57:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2200-11-23**] 05:15 PM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2200-11-22**] 04:14 AM
   Piperacillin/Tazobactam (Zosyn) - [**2200-11-24**] 12:00 AM
   Vancomycin - [**2200-11-24**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2200-11-24**] 08:00 AM
   Metoprolol - [**2200-11-24**] 10:42 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2200-11-24**] 12:56 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.1
   HR: 56 (56 - 86) bpm
   BP: 171/77(94) {126/47(68) - 180/105(119)} mmHg
   RR: 20 (17 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 63 Inch
             Total In:
                                                                  2,158 mL
                                                                    923 mL
   PO:
             TF:
   IVF:
                                                                  1,772 mL
                                                                    923 mL
   Blood products:
                                                                    386 mL
   Total out:
                                                                  3,235 mL
                                                                  1,730 mL
   Urine:
                                                                  2,820 mL
                                                                  1,560 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
                                                                    315 mL
                                                                    170 mL
   Balance:
                                                                 -1,077 mL
                                                                   -807 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///18/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   13.1 g/dL
   140 K/uL
   71 mg/dL
   1.0 mg/dL
   18 mEq/L
   3.3 mEq/L
   21 mg/dL
   105 mEq/L
   138 mEq/L
   38.4 %
   8.4 K/uL
        [image002.jpg]
                            [**2200-11-22**]  10:28 AM
                            [**2200-11-22**]  12:08 PM
                            [**2200-11-22**]  01:39 PM
                            [**2200-11-22**]  04:32 PM
                            [**2200-11-22**]  06:03 PM
                            [**2200-11-22**]  06:22 PM
                            [**2200-11-23**]  01:01 AM
                            [**2200-11-23**]  05:44 AM
                            [**2200-11-23**]  02:52 PM
                            [**2200-11-24**]  04:45 AM
   WBC
   20.5
   12.7
   8.4
   Hct
   31.7
   34.9
   38.4
   Plt
   100
   132
   140
   Cr
   1.2
   1.1
   1.1
   1.1
   1.0
   TCO2
   20
   17
   16
   20
   23
   Glucose
   91
   94
   83
   76
   71
   Other labs: PT / PTT / INR:12.9/25.5/1.1, ALT / AST:72/28, Alk Phos / T
   Bili:94/1.9, Amylase / Lipase:39/26, Lactic Acid:1.2 mmol/L,
   Albumin:3.1 g/dL, LDH:169 IU/L, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree
   substantially with the team
s note, including the assessment and plan.
   I would emphasize and add the following points:
   84 y/o gentleman transferred from WRX VA with RUQ pain and concern of
   choledolcholithiasis.  Was having RUQ pain on and off since late
   [**Month (only) 435**], and admitted for rigors, nausea, vomiting but negative work-up
   for cholecystitis beofre being sent home a month ago.  Recently found
   to have cholilithiasis. [**11-19**] had abdominal pain with nausea,
   chills/rigors.  He went to [**Hospital **] hospital [**11-21**], had elevated
   transaminases and a biliburin of 4.7, U/S c/w acute cholecystitis.
   Patient was transfered to [**Hospital1 19**] for further care. [**11-22**] was intubated
   pre-ERCP. Procedure required incision at papilla due to inability to
   pass wire past obstructing stone. Stent was placed and pus drained.
   Post ERCP was hypotensive, now requiring neo.
   PMH reviewed: Hx of CVA ?TIAs, CAD s/p MI w stents, AS s/p porcine
   valve repair, PVD, HTN, BPH, osteoarthritis, hyperlipidemia, colon
   polyps, diverticulitis, h/o UGI bleed, psoriasis, ED, left CEA
   Yesterday had successful ERCP and perc cholecystomy drain placed
   yesterday. Pus drained from CBD. Remained intubated overnight for
   respiratory failure but extubated this AM. Had reflex bradycardia
   30s-60s. Given dose of lasix this AM. Now on 3 L o2.  I/o +7.5  L,
   since midnight, neg 1L
   On exam, 135/71, HR 67, alert, HOH, lungs with exp wheezes, S1S2 reg,
   abd soft, mild RUQ tenderness, no rebound or guarding, pigtail in
   place.  Labs reviewed
 wbc 12.7 (down from 28). Micro notable for
   enterococcus in blood, also GPC in fluid [**11-22**].
   Impression
   Sepsis and enterococcal bacteremia secondary to cholangitis +/-
   cholecystitis. Had successful ERCP and perc chole drain yesterday. Will
   discuss with surgery re: their plans and possibility to transfer back
   to VA. Will continue Zosyn for GI coverage at least [**1-31**] more days but
   will need at least 14 day course of amp or vanc for enterococcus
   coverage. C/w Vanco for now. His renal insufficiency appears resolved,
   was volume related. Code status will need to be readdressed. Was DNR
   prior to procedure.
   84 y/o gentleman with h/o CVA, CAD, HTN, HL is admitted with
   choledolcholithiasis/cholecystitis s/p ERCP stent placemnt currently
   septic, intubated and with acute cholecystitis awaiting percutaneous
   cholecystostomy.
   .
   # Sepsis: Secondary to cholangitis s/p ercp and percutaneous
   cholycystostomy tube placement for decompression of gallbladder.
   - Briefly on neo post/op but weaned off with good MAPs since that time,
   patient has been aggressively fluid resuscitated since arrival,
   received over 8L of IVF since admission on the evening of [**11-21**]
   - A- line in place, has not needed pressors since post ERCP on [**11-22**]
   - Deferred central line placement since patient has not needed
   pressors, MAPs were generally between 70-80
   - Continue IV zosyn and empiric coverage with vancomycin for concern of
   possible PNA as has had increased secretions, f/u cx
s may be able to
   narrow antibiotic coverage to ampicillin with further speciation from
   perc tube, will need a prolonged course with PICC placement, which
   cannot be placed until blood cx
s are negative for over 24 hours
   - repeat blood cultures today
   - f/u cultures from percutaneous cholecystomy placement
   - appreciate surgery/ERCP recs
   - FFP prn for any procedures
   - follow up culture speciation
   .
   # S/P intubation: patient was weaned overnight and changed to PSV,
   ventilation/oxygenation improved post lasix administration which he
   received due to decreased UOP, JVP to the mandible and pulmonary edema
   on CXR
UOP responded briskly, patient
s oxygenation improved
   significantly and his BP improved, making it likely that he was
   overloaded and on the downward slope of his Starling curve
   - patient
s sedation was weaned and he was successfully extubated this
   morning
   .
   # ARF: Unclear baseline, but Cr has decreased from 1.4 on admission to
   1.1 today. Likely pre-renal in setting of hypotension as has decreased
   uop and increasing BUN/Cr
   - received over 8L of IVF, looked volume overloaded so gave 40mg of
   lasix he responded with brisk urine output which led to improvement in
   his oxygenation and his urine output remained elevated, gave 500 cc
   back for dramatic UOP
   - renally dose medications
   - monitor uop
   .
   # Cholecystitis/cholangitis: s/p stent placement with large amounts of
   pus from common bile duct. Concern for significant infection in this
   setting. Also concern for a concurrent acute cholecystitis given
   findings of increased gall bladder wall thickness and pericholecysitc
   fluid.  Patient is s/p percutaneous cholecystomy tube placement by IR
   yesterday afternoon, which has been draining brown fluid since that
   time.
   - continue zosyn pending further culture data from cholecystomy tube
   - Appreciate ERCP/Surgery recs
   .
   # h/o CVA/CAD/PVD:
   - will discuss with surgical team regarding ASA, currently on hold due
   to procedures
   - try to get prior records from the VA about baseline cardiac function
   .
   # HL: restart simvastatin when taking po meds
   .
   # Hypertension: continuing to hold home anti-hypertensives for now, for
   the past 18 hours patient has been normotensive, will continue to
   monitor and add back if necessary
   - patient bradycardic with BB and sedation, will hold BB.  Bradycardia
   has been improving with weaning sedation.
   .
   # ? COPD:
   - continue home inhalers
   .
   # BPH:
   - restart home regimen now when he can take po meds
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2200-11-22**] 01:00 AM
   20 Gauge - [**2200-11-22**] 02:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes